US04119620
(N-Benzyloxycarbonyl-L-proline 4-phenylazo-1-naphthylamide)
4-Phenylazo-1-naphthylamine (4.9 g, 0.02 mole) and N-benzyloxylcarbonyl-L-proline (5.0 g, 0.02 mole) were coupled and the reaction mixture was worked up as in Example 6. The final product was obtained as crystals.

reactant | 4-Phenylazo-1-naphthylamine | 0.02 mole, 4.9 g | C1(=CC=CC=C1)N=NC1=CC=C(C2=CC=CC=C12)N | C16H13N3
reactant | N-benzyloxylcarbonyl-L-proline | 0.02 mole, 5.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
product | N-Benzyloxycarbonyl-L-proline 4-phenylazo-1-naphthylamide | C1(=CC=CC=C1)N=NC1=CC=C(C2=CC=CC=C12)NC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C29H26N4O3
